US06008243
According to the procedure described in Example 13 for the preparation of 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone, 2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-acetic acid ethyl ester was acylated to furnish in 83% yield 2-acetoxy-2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester which was used without purification. Flash column chromatography with 0-20% EtOAc/hex as eluant gave an analytically pure pink solid, mp 136-140° C. 1H NMR: δ 7.74 (d, 2H, J=8.5 Hz), 7.63 (d, 4H, J=8.5 Hz), 7.46 (t, 2H, =7.4 Hz), 7.36 (t, 1H, J=7.2 Hz), 6.68 (d, 1H, J=3.7 Hz), 658 (d, 1H, J=3.3 Hz), 6.57 (s, 1H), 4.29 (q, 2H, J=7.0 Hz), 2.21 (s, 3H), 1.29 (t, 3H, J=7.2 Hz). Anal. Calculated for C22H20O5 : C, 72.51; H, 5.53. Found: C, 72.61; H, 5.63.

reactant | 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone | C(C)(=O)OC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C32H32N2O4
reactant | 2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-acetic acid ethyl ester | C(C)OC(C(O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C20H18O4
product | 2-acetoxy-2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester | 83% yield | C(C)OC(C(C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)OC(C)=O)=O | C22H20O5
